* NGSPICE file created from rev_not.ext - technology: sky130A

.subckt rev_not VDD VGND A Y
X0 VGND A Y VGND sky130_fd_pr__nfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
X1 VDD A Y VDD sky130_fd_pr__pfet_01v8 ad=0.3 pd=2.6 as=0.3 ps=2.6 w=1 l=0.15
C0 VDD A 0.32411f
C1 Y VDD 0.33798f
C2 Y A 0.33474f
C3 Y VGND 0.71005f
C4 VDD VGND 1.69102f
.ends

